US08058282B2
To a solution of 8-(2,6-difluoro-phenyl)-4-(2-fluoro-phenyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one (432 mg, 1 mmol) in 1-methyl-2-pyrrolidinone (5 mL) was added NaNH2 (195 mg, 5 mmol, 5 eq) and the mixture was heated to 50°. After 1 h, H2O (20 mL) was added then Et2O (20 mL) The layers were separated. The organic layer was washed with satd aq NaCl, dried (MgSO4), filtered and solvent was removed in vacuo. The yellow residue was then purified by Flash chromatography to afford 2-amino-8-(2,6-difluoro-phenyl)-4-(2-fluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one (100 mg, 53% yield). 1H-NMR (CDCl3) δ 5.51 (br s, 2H), 6.42 (d, 1H, J=9.8 Hz), 7.08 (m, 2H), 7.30 (m, 2H), 7.50 (m, 4H), LC MS (m/e)=369 (MH+). Rt=1.77 min

reactant | 8-(2,6-difluoro-phenyl)-4-(2-fluoro-phenyl)-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1 mmol, 432 mg | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C2=C(C=CC=C2)F)S(=O)(=O)C)=O | C20H12F3N3O3S
reactant | H2O | 20 mL | O | H2O
reactant | 1-methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 2-amino-8-(2,6-difluoro-phenyl)-4-(2-fluoro-phenyl)-8H-pyrido[2,3-d]pyrimidin-7-one | 100 mg, 53% yield | NC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C2=C(C=CC=C2)F | C19H11F3N4O
